US04136192
7-(3-[4-Acetyl-3-hydroxy-2-n-propylphenoxy]-2-hydroxypropoxy)-4-hydroxy-3-nitrocoumarin
Fuming nitric acid (9 ml) was added to a stirred suspension of 7-(3-[4-Acetyl-3-hydroxy-2-n-propylphenoxy]-2-hydroxypropoxy)-4-hydroxycoumarin (2.8 g) in chloroform (300 ml) over 1 hr at 0° and the dark mixture stirred for a further 0.5 hr at this temperature. Dilute hydrochloric acid (150 ml) was added and the chloroform removed in vacuo at 0°. The solid which separated was removed by filtration and recrystallised from ethanol to give 2.42g, (78%) of yellow solid of mp 201°-203° (dec). νmax (mull) 3350 (br), 1770, 1620, 1610, 1540 cm-1 ; τ(DMSO); 9.17 (3H, t, J 6.9Hz); 8.55 (2H, m, J ca 7Hz); 7.43 (3H, S + 2H, m); 5.78 (5H, S); 3.20 (3H, m); 2.16 (2H, exchangeable S); 2.16 (2 H, near doublet); 1 low field broad exchangeable). (Found, C, 58.49; H, 5.07; N, 3.04; C23H23NO10 requires; C, 58.35; H, 4.90; N, 2.96%).

reactant | nitric acid | 9 ml | [N+](=O)(O)[O-] | HNO3
reactant | 7-(3-[4-Acetyl-3-hydroxy-2-n-propylphenoxy]-2-hydroxypropoxy)-4-hydroxycoumarin | 2.8 g | C(C)(=O)C1=C(C(=C(OCC(COC2=CC=C3C(=CC(OC3=C2)=O)O)O)C=C1)CCC)O | C23H24O8
reactant | hydrochloric acid | 150 ml | Cl | ClH
solvent | chloroform | 300 ml | C(Cl)(Cl)Cl | CHCl3
product | 7-(3-[4-Acetyl-3-hydroxy-2-n-propylphenoxy]-2-hydroxypropoxy)-4-hydroxy-3-nitrocoumarin | 78% | C(C)(=O)C1=C(C(=C(OCC(COC2=CC=C3C(=C(C(OC3=C2)=O)[N+](=O)[O-])O)O)C=C1)CCC)O | C23H23NO10
